US04701282
The reaction of dodecyl isobutyrate (6.4 g, 0.025 mole) with 1-phenyl-1,2-propanedione (3.7 g, 0.025 mole) is conducted in the manner described in Example I. Thin layer chromatography of the crude reaction mixture indicated the presence of two main reaction products. High pressure liquid chromatography on silica gel using 2% ethyl acetate in hexane as the eluant yields pure dodecyl 3-hydroxy-2,2-dimethyl-4-oxo-3-phenylpentanoate (IVa) (3.2 g, 32%), b.p. 148° C. (Kugelrohr air bath temperature) at 0.005 mm Hg. Also recovered is pure dodecyl 3-hydroxy-2,2,3-trimethyl-4-oxo-4-phenylbutyrate (IVb) (3.5 g, 35%), b.p. 145° C. (Kugelrohr air bath temperature) at 0.005 mm Hg.

reactant | dodecyl isobutyrate | 0.025 mole, 6.4 g | C(C(C)C)(=O)OCCCCCCCCCCCC | C16H32O2
reactant | 1-phenyl-1,2-propanedione | 0.025 mole, 3.7 g | C1(=CC=CC=C1)C(C(C)=O)=O | C9H8O2
solvent | hexane | CCCCCC | C6H14
product | dodecyl 3-hydroxy-2,2-dimethyl-4-oxo-3-phenylpentanoate | 3.2 g, 32% | OC(C(C(=O)OCCCCCCCCCCCC)(C)C)(C(C)=O)C1=CC=CC=C1 | C25H40O4
